US06667316B1
A mixture of 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}acetamide (0.30 g, 0.61 mmol) and sodium azide (90 mg, 1.38 mmol) in acetone (10 mL) was heated to reflux for 8 hours. To the solution was added triphenylphosphine (0.30 g, 1.1 mmol) and water (0.4 mL). The solution was heated to reflux for 5 more h. The solvent was removed in vacuo to give an oil. The oil was stirred in ether (10 mL) and water (10 mL) overnight to give a suspension. The suspension was filtered and washed with ether and water to give 2-amino-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}acetamide as a yellow solid (250 mg, 86% yield); mp, 111-112° C.; 1H NMR (CDCl3) δ1.48 (t, J.=6.9 Hz, 3H, CH3), 1.74 (brs, 2H, NH2), 2.86 (s, 3H, CH3), 3.57 (s, 2H, CH2), 3.77 (dd, J=4.6, 14.5 Hz, 1H, CHH), 3.86 (s, 3H, CH3), 4.11 (q, J=7.0 Hz, 2H, CH2), 4.56 (dd, J=10.2, 14.2 Hz, 1H, CHH), 5.89 (dd, J=4.6, 10.2 Hz, 1H, NCH), 6.82-6.85 (m, 1H, Ar), 7.12-7.15 (m, 2H, Ar), 7.52 (d, J=7.2 Hz, 1H, Ar), 7.67 (t, J=7.5 Hz, 1H, Ar), 8.86 (d, J=8.3 Hz, 1H, Ar), 11.21 (s, 1H, NH); 13C NMR (CDCl3) δ14.68, 41.51, 48.65, 54.69, 55.88, 64.49, 111.45, 112.50, 115.81, 118.24, 120.37, 124.94, 129.38, 131.29, 135.90, 136.88, 148.55, 149.68, 167.64, 168.83, 172.41; Anal Calcd for C22H25N3O7S: C, 55.57; H, 5.30; N, 8.84. Found: C, 55.46; H, 5.33; N, 8.35.

reactant | 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}acetamide | 0.61 mmol, 0.30 g | ClCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C22H23ClN2O7S
reactant | sodium azide | 1.38 mmol, 90 mg | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 1.1 mmol, 0.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.4 mL | O | H2O
reactant | water | 10 mL | O | H2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2-amino-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}acetamide | 250 mg, 86% yield | NCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C22H25N3O7S
